US07723333B2
tert-Butyl (4-{[4-(trifluoromethyl)phenyl]thio}cyclohexyl)carbamate
4-[(tert-Butoxycarbonyl)amino]cyclohexyl methanesulfonate (0.7 g, 2.39 mmol), 4-(trifluoromethyl)thiophenol (1.28 g, 7.16 mmol) and K2CO3 (1.32 g, 9.54 mmol) was dissolved in THF (21 ml) and the reaction mixture was heated in a microwave reactor at 130° C. for 30 mins. The reaction mixture was diluted with water (300 ml) and extracted with EtOAc (2×150 ml). The combined organic phases were dried over Na2SO4, filtrated and evaporated. The residue was purified by silica gel column chromatography using a 85:15 mixture of heptane:EtOAc to give the title compound (0.386 g, 43%) as a 50:50 mixture of cis and trans isomers. 1H-NMR (CDCl3, 500 MHz): δ 7.55-7.50 (m, 4H), 7.45-7.40 (m, 4H), 4.70-4.23 (m, 2H), 3.69-3.36 (m, 3H), 3.16-3.05 (m, 1H), 2.13-2.04 (m, 4H), 1.95-1.64 (m, 9H), 1.54-1.40 (m, 1H), 1.45 (ds, 18H), 1.30-1.15 (m, 2H); 13C-NMR (CDCl3, 125 MHz): δ 155.4, 141.1, 140.7, 130.5, 129.9, 128.6, 128.5, 128.2, 126.0, 125.9, 125.9, 125.9, 125.4, 123.2, 79.5, 49.1, 47.9, 44.8, 43.8, 33.4, 32.0, 29.2, 29.1, 28.6.

reactant | 4-[(tert-Butoxycarbonyl)amino]cyclohexyl methanesulfonate | 2.39 mmol, 0.7 g | CS(=O)(=O)OC1CCC(CC1)NC(=O)OC(C)(C)C | C12H23NO5S
reactant | 4-(trifluoromethyl)thiophenol | 7.16 mmol, 1.28 g | FC(C1=CC=C(C=C1)S)(F)F | C7H5F3S
reactant | K2CO3 | 9.54 mmol, 1.32 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 21 ml | C1CCOC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | tert-Butyl (4-{[4-(trifluoromethyl)phenyl]thio}cyclohexyl)carbamate | 0.386 g, 43% | FC(C1=CC=C(C=C1)SC1CCC(CC1)NC(OC(C)(C)C)=O)(F)F | C18H24F3NO2S
